US05602077
Preparation of 3-[4-chloro-2-fluoro-5-[(2-propynyl)-oxy]phenyl]-1-methyl-6-(trifluoromethyl)-2,4(1H, 3H)-pyrimidinedione
To a solution of 200 mg (0.59 mmol) of 3-[4-chloro-2-fluoro-5-(hydroxy)phenyl]-1-methyl-6- (trifluoromethyl)-2,4 (1H,3H) -pyrimidinedione in 3 mL of acetonitrile was added 162 mg of potassium carbonate (1.18 mmol) and 131 mL (1.18 mmol) of an 80% solution of propargyl bromide in toluene. It was warmed under reflux for 2 h. The resulting mixture was filtered and the filtrate was concentrated in vacuo to give colorless oil which was flash chromatographed over silica gel, eluting with a 1:4 v:v mixture of ethyl acetate and hexane to give 204 mg of title compound as a white foam: 1H-NMR (CDCl3, 200 MHz) ppm 7.35 (d, 1H), 7.0 (d, 1H), 6.4 (s, 1H), 4.78 (d, 2H), 3.58 (s, 3H), 2.6 (d, 1H).

reactant | 3-[4-chloro-2-fluoro-5-(hydroxy)phenyl]-1-methyl-6- (trifluoromethyl)-2,4 (1H,3H) -pyrimidinedione | 0.59 mmol, 200 mg | ClC1=CC(=C(C=C1O)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C12H7ClF4N2O3
reactant | potassium carbonate | 1.18 mmol, 162 mg | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | C(C#C)Br | C3H3Br
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-[4-chloro-2-fluoro-5-[(2-propynyl)-oxy]phenyl]-1-methyl-6-(trifluoromethyl)-2,4(1H, 3H)-pyrimidinedione | 204 mg | ClC1=CC(=C(C=C1OCC#C)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C15H9ClF4N2O3
